US05135944
To a 250 mL round-bottom flask was added magnesium turnings (4.51 g, 0.186 mol) and 100 mL dry THF. Iodine (one crystal) was added, followed by 4-bromoveratrole (27 g, 0.124 mol) dropwise. The reaction was heated under reflux after addition of the first few drops of 4-bromoveratrole until the iodine color disappeared. Following this, the remainder of the 4-bromoveratrole was added dropwise. A condition of reflux was maintained for 2 hours. The solution was then cooled to room temperature and added to a solution of (R)-1-trifluoroacetylproline anhydride with diphenylphosphoric acid (54 g, 0.123 mol) in 250 mL dry THF at -70° C. The rate of addition was monitored to keep the reaction temperature below -60° C. Once addition was complete, the reaction mixture was warmed to room temperature and allowed to stir for 14 hours. It was then poured into a saturated aqueous solution of ammonium chloride (500 mL) and shaken. The organic layer was separated, dried with MgSO 4, and filtered, and the solvent removed in vacuo to give an oil. This oil was subjected to flash chromatography in 1:1 hexane:ethyl acetate to give 20.4 g of (R)-2-(3,4-dimethoxybenzoyl)-1-trifluoroacetylpyrrolidine (50% yield), m.p. 121°-123° C., [α]D25 =65° (c=1.2, CHCl3).

reactant | magnesium | 0.186 mol, 4.51 g | [Mg] | Mg
reactant | Iodine | II | I2
reactant | 4-bromoveratrole | 0.124 mol, 27 g | BrC=1C=C(C(=CC1)OC)OC | C8H9BrO2
reactant | (R)-1-trifluoroacetylproline anhydride | FC(C(=O)N1[C@@H](C(=O)OC([C@@H]2N(CCC2)C(C(F)(F)F)=O)=O)CCC1)(F)F | C14H14F6N2O5
reactant | diphenylphosphoric acid | 0.123 mol, 54 g | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)(O)=O | C12H11O4P
reactant | ammonium chloride | 500 mL | [Cl-].[NH4+]
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | (R)-2-(3,4-dimethoxybenzoyl)-1-trifluoroacetylpyrrolidine | 20.4 g, 50% yield | COC=1C=C(C(=O)[C@@H]2N(CCC2)C(C(F)(F)F)=O)C=CC1OC | C15H16F3NO4
